US05374720
The same procedure as in Example 8-1 was carried out by using allyl (IR,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-diphenoxyphosphoryloxy-1-carbapen-2-em-3-carboxylate (129 mg, 0.26 mmol), (2R,4S)-N-allyloxycarbonyl-2-[(2S)-N-allyloxycarbonyl-2-(dimethylcarbamoyl)pyrrolidin-4-ylmethyl]-4-mercaptopyrrolidine (110 mg, 0.26 mmol) and N,N-diisopropylethylamine (45 μl, 0.26 mmol) to obtain allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-[(2S)-N-allyloxycarbonyl-2-(dimethylcarbamoyl)pyrrolidin-4-ylmethyl]pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (78 mg, yield: 45%).

reactant | allyl (IR,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2-diphenoxyphosphoryloxy-1-carbapen-2-em-3-carboxylate | 0.26 mmol, 129 mg | O[C@H](C)[C@@H]1[C@H]2N(C(=C([C@@H]2C)OP(=O)(OC2=CC=CC=C2)OC2=CC=CC=C2)C(=O)OCC=C)C1=O | C25H26NO8P
reactant | (2R,4S)-N-allyloxycarbonyl-2-[(2S)-N-allyloxycarbonyl-2-(dimethylcarbamoyl)pyrrolidin-4-ylmethyl]-4-mercaptopyrrolidine | 0.26 mmol, 110 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CC1C[C@H](N(C1)C(=O)OCC=C)C(N(C)C)=O | C20H31N3O5S
reactant | N,N-diisopropylethylamine | 0.26 mmol, 45 μl | C(C)(C)N(C(C)C)CC | C8H19N
product | allyl (1R,5S,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-[(2S)-N-allyloxycarbonyl-2-(dimethylcarbamoyl)pyrrolidin-4-ylmethyl]pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 78 mg, yield: 45% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C)CC2C[C@H](N(C2)C(=O)OCC=C)C(N(C)C)=O | C33H46N4O9S
